US07781431B2
Step 1: ethyl 4-nitrothiophene-2-carboxylate
A solution of nitric acid/sulfuric acid (1:2.5) was added dropwise to a stirred solution (2.7 M) of ethyl 2-thiophene carboxylate in sulfuric acid at −10° C. After stirring for an additional half an hour, the reaction mixture was poured into ice-water. The resulting precipitate was filtered, washed with water and dried to give the title compound (96%) as a mixture 1:1 of 4-nitro and 5-nitro regioisomers.

reactant | nitric acid sulfuric acid | [N+](=O)(O)[O-].S(O)(O)(=O)=O
reactant | ethyl 2-thiophene carboxylate | 2.7 M | S1C(=CC=C1)C(=O)OCC | C7H8O2S
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | ethyl 4-nitrothiophene-2-carboxylate | 96% | [N+](=O)([O-])C=1C=C(SC1)C(=O)OCC | C7H7NO4S
